Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
dilation & curettage (D&C)

 
History of Present Illness:
___ ___ presented from PCP office with vaginal bleeding, 
hypotension and rash. Had Med Ab at ___ on ___ 
at 8wk gestation after which she reported heavy bleeding and 
cramping, changing ___ pad every 1 hour for several hours. 
She had a follow-up HCG several days after her Med Ab with an
appropriate drop in HCG per her report. Since then she reports 
continued intermittent vaginal bleeding and menstrual-like 
cramping. She was seen at ___ Parent___ last week at which 
time she was started on OCPs for continued bleeding, no 
ultrasound was performed at that time. She continued to have 
bleeding and cramping throughout the week and yesterday began
having chills, malaise and nausea/vomiting. She woke up today 
with a diffuse erythematous, non pruritic rash. This coupled 
with her other symptoms prompted her to present to her PCPs 
office for evaluation. On arrival there she was noted to be 
tachycardic to the 140s and hypotensive ___ so was 
transferred to ___ ED for urgent evaluation.

On arrival to the ED she was triggered for tachycardia in the 
130s but was normotensive and was started on fluid 
resuscitation. She reported chills and malaise but her nausea 
and rash had improved. She reported that she continued to have 
vaginal bleeding but only had to change a pad every few hours 
and
it was not saturated. She also reported suprapubic abdominal
discomfort and cramping. She denied emesis and last ate at 
3:30pm

She denied CP, SOB, dysuria, urinary frequency, abnormal vaginal
discharge.

 
Past Medical History:
OBGYNHx:
___
- SAB x 1, spontaneous
- TAB x 2, ___ and ___, both med Ab
- Irregular menses every ___ days lasting ___ days, heavy with
mild to moderate dysmenorrhea
- Denies any history of STIs, cysts, fibroids
- Contraception: OCPs

PMH: depression (previously on medication, currently sees ___)
PSH: denies
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
========================================
Labs
========================================
___ 07:10PM BLOOD WBC-10.8* RBC-3.37* Hgb-11.1* Hct-32.6* 
MCV-97 MCH-32.9* MCHC-34.0 RDW-13.0 RDWSD-46.1 Plt ___
___ 07:10PM BLOOD ___ PTT-28.7 ___
___ 07:10PM BLOOD Glucose-87 UreaN-12 Creat-0.6 Na-144 
K-3.0* Cl-112* HCO3-20* AnGap-15
___ 07:10PM BLOOD HCG-410
___ 07:17PM BLOOD Lactate-2.5*
___ 02:54AM URINE Color-Straw Appear-Clear Sp ___
___ 02:54AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:54AM URINE RBC-5* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-2
___ 02:54AM URINE CastHy-3*

========================================
Microbiology 
========================================
 
 
___ 2:54 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
 
___ 7:21 pm SWAB     Site: CERVIX      Source: Cervical. 

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___:    Negative for Chlamydia trachomatis by 
PANTHER System,
      APTIMA COMBO 2 Assay. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___:    Negative for Neisseria gonorrhoeae by 
PANTHER
      System, APTIMA COMBO 2 Assay. 

========================================
Imaging
========================================
Pelvic ultrasound ___
FINDINGS:  
The uterus is anteverted and measures 8.5 x 4.6 x 6.9 cm. The 
endometrium is heterogenous with a 1.4 x 1.8 x 2.9 cm hypoechoic 
region with internal 
vascularity, consistent with vascularized retained products of 
conception. 
  
The ovaries are normal.  Due to acute, localized pain symptoms, 
spectral and color Doppler of the ovaries was performed.  There 
was normal arterial and venous flow demonstrated within the 
ovaries.  There is no free fluid. 
  
IMPRESSION:   
1.4 x 1.8 x 2.9 cm area of vascularized retained products of 
conception. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
vaginal bleeding. Prior workup in the emergency department was 
concerning for endometirits given tachycardic, hypotensive and 
new onset rash. Pelvic ultrasound showed retained products of 
conception and she underwent a dilation and curettage. Please 
see the operative report for full details. Given the concern for 
endometritis, she received IV gentamicin and clindamycin for 24 
hours. Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with oral Tylenol and 
ibuprofen. She was transitioned to oral doxycycline and flagyl 
for a planned 10 day course. She was continued on her home oral 
contraceptives for contraception. By post-operative day 1, she 
was tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. 
She was then discharged home in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
1.  ___ (___) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY  
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice per 
day Disp #*20 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Please take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO BID 
RX *metronidazole 500 mg 1 tablet(s) by mouth twice per day Disp 
#*20 Tablet Refills:*0 
5.  Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
retained productsw of conception
endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

*Please continue to take your antibiotics as instructed for the 
next ___ days. 

General instructions:
* Take your medications as prescribed.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___